US06642395B1
1) Preparation of (R)-4-chloromandelic Acid Methyl Ester
Into toluene (20 ml) were added methanol (3.0 g), (R)-4-chloromandelic acid (5.0 g) and p-toluenesulfonic acid (0.1 g), and the resulting mixture was heated under reflux for 2 hours. The reaction mixture was cooled, then washed with a saturated aqueous sodium hydrogen carbonate solution, and then the organic layer was washed with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The desiccant was filtered off and the solvent was distilled off to obtain a colorless oily compound mentioned above (5.23 g, 97.5%).

reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | (R)-4-chloromandelic acid | 5.0 g | ClC1=CC=C([C@H](C(=O)O)O)C=C1 | C8H7ClO3
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 3.0 g | CO | CH4O
product | (R)-4-chloromandelic Acid Methyl Ester | COC([C@H](O)C1=CC=C(C=C1)Cl)=O | C9H9ClO3
